US07241791B2
Step 2: 4-(7-phenyl-2-propyl-2H-indazol-3-yl)phenol
To a solution of 3-(4-methoxyphenyl)-7-phenyl-2-propyl-2H-indazole (0.140 g, 0.43 mmol) in CH2Cl2 (5 mL) was added BBr3 (0.081 mL, 0.865 mmol) at −78° C. The solution was stirred for 15 minutes and allowed to stand overnight in the refrigerator. The reaction was quenched with NH4OH (10 mL) and extracted with CH2Cl2. The organic layer was washed with water and dried (MgSO4). The reaction was purified by flash chromatography (5/1 hexane/ethyl Acetate) to give the title compound as a white solid (0.066 g, 0.15 mmol, 34%).

reactant | 3-(4-methoxyphenyl)-7-phenyl-2-propyl-2H-indazole | 0.43 mmol, 0.140 g | COC1=CC=C(C=C1)C=1N(N=C2C(=CC=CC12)C1=CC=CC=C1)CCC | C23H22N2O
reactant | BBr3 | 0.865 mmol, 0.081 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(7-phenyl-2-propyl-2H-indazol-3-yl)phenol | 0.15 mmol, 0.066 g, 34% | C1(=CC=CC=C1)C1=CC=CC2=C(N(N=C12)CCC)C1=CC=C(C=C1)O | C22H20N2O
